US04341718
N-(1-Methylethyl)-3-Chlorocinnamoylcarboxamide
A mixture of 3-chlorocinnamic acid (25 g.), thionyl chloride (19.4 g.) and benzene (300 ml.) was heated under reflux for 2 hours, then evaporated under reduced pressure on a rotary evaporator to give an oil. The oil was dissolved in benzene (50 ml.), and the benzene solution was added slowly to a mixture of isopropylamine (25 g.) and benzene (300 ml.). The resulting mixture was allowed to stir at room temperature for 2 hours, and heated under mild reflux for 1 hour. It was then allowed to set at room temperature overnight. The precipitate thus separated was collected on a filter, and washed with benzene. The combined filtrate and washings were washed with water, then dried over potassium carbonate. Removal of benzene under reduced pressure on a rotary evaporator gave an oil which solidified on standing. The product melted at 92°-94°, and weighed 28 g.

reactant | 3-chlorocinnamic acid | 25 g | ClC=1C=C(C=CC(=O)O)C=CC1 | C9H7ClO2
reactant | thionyl chloride | 19.4 g | S(=O)(Cl)Cl | Cl2OS
reactant | isopropylamine | 25 g | C(C)(C)N | C3H9N
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
reactant | benzene | 300 ml | C1=CC=CC=C1 | C6H6
reactant | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | N-(1-Methylethyl)-3-Chlorocinnamoylcarboxamide | CC(C)NC(=O)C(C=CC1=CC(=CC=C1)Cl)=O | C13H14ClNO2
